US07807672B2
Preparation of (S,S)-5-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester
A mixture of (S,S)-5-(4-Bromo-phenyl)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (4.0 g, 11.3 mmol), Bis(pinacolato)diboron (4.0 g, 15.7 mmol), KOAc (3.2 g) and Cl2Pd(dppf)CH2Cl2 (800 mg) in 40 mL dioxane was evacuated and recharged with N2 several times. The reaction mixture was then heated to 85° C. overnight. After cooling down to rt, 150 mL ethyl acetate and 30 mL water was added. The mixture was filtered through a pad of Celite and washed with additional ethyl acetate. The separated organic layer was dried (MgSO4) and concentrated. The crude was purified on silica gel column eluting with 30% to 50% ethyl acetate/hexanes to yield the title compound as a white solid (3.3 g). MS (401, MH)

reactant | (S,S)-5-(4-Bromo-phenyl)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 11.3 mmol, 4.0 g | C(C)(C)(C)OC(=O)N1[C@@H]2CN([C@H](C1)C2)C2=CC=C(C=C2)Br | C16H21BrN2O2
reactant | Bis(pinacolato)diboron | 15.7 mmol, 4.0 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 3.2 g | CC(=O)[O-].[K+]
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | (S,S)-5-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 3.3 g | C(C)(C)(C)OC(=O)N1[C@@H]2CN([C@H](C1)C2)C2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C | C22H33BN2O4
